US07776875B2
Preparation of Intermediate 2-(4-chloro-2-[1,3]dioxolan-2-yl-phenoxy)-2-propyl pentanoic acid ethyl ester
Lithium bis(trimethylsilyl)amide (26 mL, 26 mmol, 1 M in THF) was slowly added to a solution of 2-(4-Chloro-2-[1,3]dioxolan-2-yl-phenoxy)-pentanoic acid ethyl ester (6.6 g, 20 mmol) in anhydrous THF (60 mL) at −78° C. After the mixture was stirred for 30 min at −78° C., 1-iodopropane (4 mL, 40 mmol) was added. The mixture was allowed to warm to room temperature and stirred for 2 h. Then the mixture was diluted with ethyl acetate, washed with a saturated aqueous solution of NH4Cl, and the organic layer was separated, dried over anhydrous Na2SO4 and concentrated to give the title compound as a yellow oil (5 g).

reactant | Lithium bis(trimethylsilyl)amide | 26 mmol, 1 M, 26 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | 2-(4-Chloro-2-[1,3]dioxolan-2-yl-phenoxy)-pentanoic acid ethyl ester | 20 mmol, 6.6 g | C(C)OC(C(CCC)OC1=C(C=C(C=C1)Cl)C1OCCO1)=O | C16H21ClO5
reactant | 1-iodopropane | 40 mmol, 4 mL | ICCC | C3H7I
solvent | THF | 60 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(4-chloro-2-[1,3]dioxolan-2-yl-phenoxy)-2-propyl pentanoic acid ethyl ester | 5 g | C(C)OC(C(CCC)(CCC)OC1=C(C=C(C=C1)Cl)C1OCCO1)=O | C19H27ClO5
